US08034558B2
Polyphosphoric acid (50 gm) was heated to 160° C. under a nitrogen atmosphere. N-(4-methoxyphenyl)anthranilic acid (4.89 gm; 20 mmol) was added and the mixture stirred at 160° C. for 15 minutes. The reaction was cooled rapidly in an ice bath and water added to give a greenish yellow precipitate. This was filtered off, washed with water, then dilute sodium bicarbonate solution and again with water. The solid was finally dried at 50° C. under vacuum to give 3.67 gm (81%) of 2-methoxyacridone. δH (200 MHz, DMSO-d6) 3.86 (3H, s), 7.23 (1H, t), 7.55 (5H, m), 8.22 (1H, d), 11.7 (1H, s).

reactant | N-(4-methoxyphenyl)anthranilic acid | 20 mmol, 4.89 gm | COC1=CC=C(C=C1)NC=1C(C(=O)O)=CC=CC1 | C14H13NO3
solvent | water | O | H2O
product | 2-methoxyacridone | 3.67 gm, 81% | COC1=CC=2C(C3=CC=CC=C3NC2C=C1)=O | C14H11NO2
